US04772614
1-Methyl-4-quinolone (2 g) was heated with chlorosulphonic acid (5 ml) at 125° for 2.5 hours. The reaction mixture was cooled to room temperature and then carefully poured onto crushed ice (300 ml). The precipitated solid was collected by filtration and then dried to give the novel compound 1-methyl-4-oxo-1,4-dihydroquinoline-3-sulphonyl chloride, m.p. 313°-315°.

reactant | 1-Methyl-4-quinolone | 2 g | CN1C=CC(C2=CC=CC=C12)=O | C10H9NO
reactant | chlorosulphonic acid | 5 ml | ClS(=O)(=O)O | ClHO3S
product | 1-methyl-4-oxo-1,4-dihydroquinoline-3-sulphonyl chloride | CN1C=C(C(C2=CC=CC=C12)=O)S(=O)(=O)Cl | C10H8ClNO3S
